US04454134
Preparation of S-(2-Carbamoyl-1-methylethyl) acetothiohydroximate
Using the procedure described in Example I 33 grams (0.25 m) of methyl 3-mercapto-2-methylpropionate and 10 grams (0.25 m) of NaOH was caused to react with acetohydroximoyl chloride prepared from 15 g (0.25 m) of acetaldoxime and 18 g (0.25 m) of chlorine. After reaction the crude reaction product was placed in a pyrex pressure bottle to which was added 200 ml of concentrated ammonium hydroxide. The bottle was sealed and the mixture was stirred by means of a magnetic stirring bar for two days at ambient temperature. The bisphasic reaction mixture was then extracted with ether and the lower, aqueous phase was concentrated in vacuo to produce 3 g of a residue which crystallized on standing. An infrared spectrum supported the proposed structure.

reactant | methyl 3-mercapto-2-methylpropionate | SCC(C(=O)OC)C | C5H10O2S
reactant | NaOH | 10 grams | [OH-].[Na+]
reactant | acetohydroximoyl chloride | C(C)(=NO)Cl | C2H4ClNO
reactant | acetaldoxime | 15 g | C(C)=NO | C2H5NO
reactant | chlorine | 18 g | ClCl | Cl2
solvent | ammonium hydroxide | 200 ml | [OH-].[NH4+]
product | S-(2-Carbamoyl-1-methylethyl) acetothiohydroximate | 3 g | C(C)(=NO)SC(CC(N)=O)C | C6H12N2O2S
